US07504508B2
(2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-benzoic acid methyl ester (H-72)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (150 mg, 0.35 mmol) was dissolved in DMF (5 mL) at room temperature. Cs2CO3 (283 mg, 0.87 mmol) was added followed by methyl 3-(bromomethyl)benzoate (119 mg, 0.52 mmol) and the reaction was stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure and dissolved in ethyl acetate (15 mL). The reaction mixture was washed with sat. aq. NaHCO3 (15 mL), water (15 mL) and brine (15 mL). The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography (5/95 ethyl acetate/hexane-50/50 ethyl acetate/hexane gradient) to afford slightly yellow solid product (111 mg, 54%).

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.35 mmol, 150 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | Cs2CO3 | 0.87 mmol, 283 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl 3-(bromomethyl)benzoate | 0.52 mmol, 119 mg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-benzoic acid methyl ester | 111 mg, 54% | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C34H31ClN2O5
